US06617346B1
To a solution of 3-bromo-5-methoxy-phenyl-methanol (460 mg, 2.119 mmol, prepared according to the procedure reported by Claudi, F. et al. J. Med. Chem. 2000, 43, 599-608) in dimethylformamide (3 mL) at room temperature was added zinc cyanide (149 mg, 1.271 mmol). The reaction mixture was degassed by passing argon through for 30 min before tetrakis(triphenylphosphine)palladium (147 mg, 0.127 mmol) was added. The reaction mixture was heated at 100° C. for 12 h. It was diluted with diethyl ether and washed with sodium bicarbonate solution, brine and dried over anhydrous sodium sulfate. The solid was then filtered off, and the filtrate was concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with 40% ethyl acetate in hexanes yielded 3-hydroxymethyl-5-methoxy-benzonitrile as white solids (269 mg, 78%).

reactant | 3-bromo-5-methoxy-phenyl-methanol | BrC=1C=C(C=C(C1)OC)CO | C8H9BrO2
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | zinc cyanide | 1.271 mmol, 149 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.127 mmol, 147 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-hydroxymethyl-5-methoxy-benzonitrile | 269 mg, 78% | OCC=1C=C(C#N)C=C(C1)OC | C9H9NO2
